US07687491B2
(4d) Ethyl 1-[(5-{5-[4-phenyl-5-(trifluoromethyl)-2-thienyl]-1,2,4-oxadiazol-3-yl}-2-thienyl)methyl]azetidine-3-carboxylate
The crude product of the title compound was synthesized by conducting the similar reaction to that mentioned in Example 1 (1f) using (5-{5-[4-phenyl-5-(trifluoromethyl)-2-thienyl]-1,2,4-oxadiazol-3-yl}-2-thienyl)methanol (0.12 g, 0.29 mmol) that was obtained in Example 4 (4c), carbon tetrabromide (0.19 g, 0.58 mmol), triphenylphosphine (0.15 g, 0.58 mmol), ethyl 3-azetidinecarboxylate hydrochloride (62 mg, 0.38 mmol), and N,N-diisopropylethylamine (0.13 ml, 0.73 mmol). Subsequently, the crude product of the title compound thus obtained was purified by thin layer chromatography on a silica gel plate using a mixed solvent of ethyl acetate and hexane (4:5) as the developing solvent to afford the title compound (0.12 g) in a yield of 80% as a colourless oily product.

reactant | (5-{5-[4-phenyl-5-(trifluoromethyl)-2-thienyl]-1,2,4-oxadiazol-3-yl}-2-thienyl)methanol | 0.29 mmol, 0.12 g | C1(=CC=CC=C1)C=1C=C(SC1C(F)(F)F)C1=NC(=NO1)C1=CC=C(S1)CO | C18H11F3N2O2S2
reactant | carbon tetrabromide | 0.58 mmol, 0.19 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 0.58 mmol, 0.15 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | ethyl 3-azetidinecarboxylate hydrochloride | 0.38 mmol, 62 mg | Cl.N1CC(C1)C(=O)OCC
reactant | N,N-diisopropylethylamine | 0.73 mmol, 0.13 ml | C(C)(C)N(C(C)C)CC | C8H19N
product | Ethyl 1-[(5-{5-[4-phenyl-5-(trifluoromethyl)-2-thienyl]-1,2,4-oxadiazol-3-yl}-2-thienyl)methyl]azetidine-3-carboxylate | C1(=CC=CC=C1)C=1C=C(SC1C(F)(F)F)C1=NC(=NO1)C1=CC=C(S1)CN1CC(C1)C(=O)OCC | C24H20F3N3O3S2
